US06515003B1
To a solution of 6-(5-bromo-2,6-dimethoxyphenyl)-1,1,4,4-tetramethy-1,2,3,4-tetrahydronaphthlene (0.24 g, 0.55 mmol) in anhydrous THF (6 mL) was added at −78° C. under argon n-BuLi (1.6 M in hexane, 0.7 mL, 1.1 mmol). The solution was stirred for 5 minutes at −78° C. and N,N-dimethylformamide (0.13 mL, 1.65 mmol) was added. The reaction mixture was stirred 2 hours at −78° C. then quenched with aqueous ammonium chloride and brought to room temperature. The solution was diluted with ethyl acetate and washed successively with water and brine, dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was chromatographed and silica gel (eluent: ethyl acetate/hexane, 1:9) to give 0.14 g (72%) of 3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)-2,4-dimethoxy-benzaldehyde. 1H NMR (500 MHz; CDCl3): δ1.29 (s, 6H); 1.32 (s, 6H); 1.72 (s, 4H); 3.37 (s, 3H); 3.83 (s, 3H); 6.83 (d, J=9.0 Hz, 1H); 7.14 (dd, J1=2.0 Hz, J2=8.5 Hz, 1H); 7.33 (d, J=8.0 Hz, 1H); 7.36 (s, 1H); 7.85 (d, J=8.5 Hz, 1H); 10.29 (s, 1H).

reactant | 6-(5-bromo-2,6-dimethoxyphenyl)-1,1,4,4-tetramethy-1,2,3,4-tetrahydronaphthlene | 0.55 mmol, 0.24 g | BrC=1C=CC(=C(C1OC)C=1C=C2C(CCC(C2=CC1)(C)C)(C)C)OC | C22H27BrO2
reactant | N,N-dimethylformamide | 1.65 mmol, 0.13 mL | CN(C=O)C | C3H7NO
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)-2,4-dimethoxy-benzaldehyde | 0.14 g, 72% | CC1(C=2C=CC(=CC2C(CC1)(C)C)C=1C(=C(C=O)C=CC1OC)OC)C | C23H28O3
